US07622480B2
This compound was prepared following the procedure described in example 4, part E, starting with 0.46 g (1.7 mmol) of 1-(2-ethoxyethyl)-3-piperidin yl-1H-pyrrolo[2,3-c]pyridine and 0.44 g (2.0 mmol) of 2-(2-chloroethoxy)-benzoic acid methyl ester. After standard work-up and purification, 0.2 g (21% yield) of 2-(2-{4-[1-(2-ethoxyethyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-piperidin-1-yl}-ethoxy)benzoic acid methyl ester were obtained.

reactant | 1-(2-ethoxyethyl)-3-piperidin yl-1H-pyrrolo[2,3-c]pyridine | 1.7 mmol, 0.46 g | C(C)OCCN1C=C(C=2C1=CN=CC2)N2CCCCC2 | C16H23N3O
reactant | 2-(2-chloroethoxy)-benzoic acid methyl ester | 2.0 mmol, 0.44 g | COC(C1=C(C=CC=C1)OCCCl)=O | C10H11ClO3
product | 2-(2-{4-[1-(2-ethoxyethyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-piperidin-1-yl}-ethoxy)benzoic acid methyl ester | 0.2 g, 21% yield | COC(C1=C(C=CC=C1)OCCN1CCC(CC1)C1=CN(C2=CN=CC=C21)CCOCC)=O | C26H33N3O4
